US05710246
A solution of Cbz-Pro-OH (10.1 gm) in 2-propanol (IPA, 100 mL) was cooled to -5° C., and NMM (4.4 mL) was added with additional cooling to -10° C. iso-Butyl chloroformate (5.2 mL) was added dropwise while maintaining the temperature at -10° to -15° C. After the addition was complete, a solution of HCl.D-Ala-NH2 (5.0 gm) and NMM (4.4 mL) in water (50 mL) was added and the mixture was stirred at -10° C. for another 30 minutes. The cooling bath was then removed and the solution stirred another three hours. The reaction was quenched in a mixture of EtOAc (200 mL) and water (100 mL) containing NaHCO3 (5 gm) and NaCl (5 gm). The layers were separated and the aqueous layer extracted with EtOAc (2×100 mL). The organic layers were combined and washed with water (2×50 mL) and then concentrated in vacuo to dryness. The residue was taken up in EtOAc (250 mL) and the solution washed with water (2×50 mL) to remove any residual IPA. The organic solution was concentrated in vacuo to about 50 mL and treated with EtOAc (50 mL) and heptane (50 mL) and the product crystallized. The solids were filtered, washed on the filter with heptane and dried in vacuo to yield 8.2 gm Cbz-Pro-D-Ala-NH2. HPLC: 99.2 pa %, [a]D =-11.2 (CHCl3).

reactant | Cbz-Pro-OH | 10.1 gm | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | NMM | 4.4 mL | CN1CCOCC1 | C5H11NO
reactant | iso-Butyl chloroformate | 5.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | HCl | Cl | ClH
reactant | D-Ala-NH2 | 5.0 gm | N[C@H](C)C(=O)N | C3H8N2O
reactant | NMM | 4.4 mL | CN1CCOCC1 | C5H11NO
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
solvent | water | 50 mL | O | H2O
product | Cbz-Pro-D-Ala-NH2 | 8.2 gm | N1([C@H](C(=O)N[C@H](C)C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C16H21N3O4
